US05376670
In a manner analogous to Example 59, 2.6 g (0.007 mole) of 3-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-5-methyl-1,2,4-oxadiazole is reacted with 7.7 g (0.03 mole) of zinc bromide to give 0.94 g (48%) of 2,6-bis(1,1-dimethylethyl)-4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenol; mp 126°-127° C.

reactant | 3-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-5-methyl-1,2,4-oxadiazole | 0.007 mole, 2.6 g | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C1=NOC(=N1)C | C21H32N2O4
catalyst | zinc bromide | 0.03 mole, 7.7 g | [Br-].[Zn+2].[Br-]
product | 2,6-bis(1,1-dimethylethyl)-4-(5-methyl-1,2,4-oxadiazol-3-yl)-phenol | 0.94 g, 48% | CC(C)(C)C1=C(C(=CC(=C1)C1=NOC(=N1)C)C(C)(C)C)O | C17H24N2O2
